US08058300B2
Synthesis of {5-[4′-(1-Benzenesulfonylaminocarbonyl-cyclopropyl)-biphenyl-4-yl]-3-methyl-isoxazol-4-yl}-carbamic acid (R)-1-phenyl-ethyl ester (Compound 36)
Prepared according to the procedure described in Example 34, Step 1 using 1-{4′-[3-methyl-4-((R)-1-phenyl-ethoxycarbonylamino)-isoxazol-5-yl]-biphenyl-4-yl}-cyclopropanecarboxylic acid and benzenesulfonamide.

reactant | 1-{4′-[3-methyl-4-((R)-1-phenyl-ethoxycarbonylamino)-isoxazol-5-yl]-biphenyl-4-yl}-cyclopropanecarboxylic acid | CC1=NOC(=C1NC(=O)O[C@H](C)C1=CC=CC=C1)C1=CC=C(C=C1)C1=CC=C(C=C1)C1(CC1)C(=O)O | C29H26N2O5
reactant | benzenesulfonamide | C1(=CC=CC=C1)S(=O)(=O)N | C6H7NO2S
product | {5-[4′-(1-Benzenesulfonylaminocarbonyl-cyclopropyl)-biphenyl-4-yl]-3-methyl-isoxazol-4-yl}-carbamic acid (R)-1-phenyl-ethyl ester | C1(=CC=CC=C1)[C@@H](C)OC(NC=1C(=NOC1C1=CC=C(C=C1)C1=CC=C(C=C1)C1(CC1)C(=O)NS(=O)(=O)C1=CC=CC=C1)C)=O | C35H31N3O6S
